US04898874
3-(4-Chlorophenyl)-2,1-benzisoxazole-5-acetamide
A solution of 400 mg (0.00125 mole) of 3-(4-chlorobenzoyl)-4-nitrobenzene acetamide in 20 ml of tetrahydrofuran was warmed to 50° C. and treated with 1 g of tin powder and 1 ml of concentrated hydrochloric acid. The mixture was stirred for 1 hr, then filtered. The filtrate was poured into water and the solid was collected and recrystallized from ethanol-isopropanol to give 50 mg (14%) of light-yellow crystals, m.p. 242.0°-43.5° C.

reactant | 3-(4-chlorobenzoyl)-4-nitrobenzene acetamide | 0.00125 mole, 400 mg | ClC1=CC=C(C(=O)C=2C=C(C=CC2[N+](=O)[O-])CC(=O)N)C=C1 | C15H11ClN2O4
reactant | tin | 1 g | [Sn] | Sn
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(4-Chlorophenyl)-2,1-benzisoxazole-5-acetamide | 50 mg, 14% | ClC1=CC=C(C=C1)C=1ON=C2C1C=C(C=C2)CC(=O)N | C15H11ClN2O2
